US05958931
A mixture of 2.0 g (7.5 mmol) of α-bromo-2,6-dichlorophenyl-acetaldehyde and 2.08 g (6.8 mmol) of ethyl (RS)-4-(2-methoxyphenyl)-6-methyl-2-thioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylate in 40 ml of tetrahydrofuran was stirred at RT for 17 h. Subsequently, the mixture was cooled to 0° C. and the precipitated solid was filtered off, dissolved in 75 ml of conc. acetic acid and heated at reflux while stirring for 24 h. The reaction mixture was concentrated and the residue was purified by column chromatography on silica gel (ethyl acetate). There were obtained 1.82 g (51%) of ethyl (RS)-2-(2,6-dichlorophenyl)-5-(2-methoxyphenyl)-7-methyl-5H-thiazolo[3,2-a]pyrimidine-6-carboxylate as a yellow foam.

reactant | α-bromo-2,6-dichlorophenyl-acetaldehyde | 7.5 mmol, 2.0 g | BrC(C=O)C1=C(C=CC=C1Cl)Cl | C8H5BrCl2O
reactant | ethyl (RS)-4-(2-methoxyphenyl)-6-methyl-2-thioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylate | 6.8 mmol, 2.08 g | COC1=C(C=CC=C1)C1NC(NC(=C1C(=O)OCC)C)=S | C15H18N2O3S
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | ethyl (RS)-2-(2,6-dichlorophenyl)-5-(2-methoxyphenyl)-7-methyl-5H-thiazolo[3,2-a]pyrimidine-6-carboxylate | 1.82 g, 51% | ClC1=C(C(=CC=C1)Cl)C1=CN2C(=NC(=C(C2C2=C(C=CC=C2)OC)C(=O)OCC)C)S1 | C23H20Cl2N2O3S
